US05534618
A3) Preparation of 1-(2,3-epoxypropyl)-4-dodecyloxy-2,2,6,6-tetramethylpiperidine
201 g (1.28 mol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine, 21.7 g (64 mmol) of tetrabutylammonium hydrogensulfate, 1.3 l of toluene and 256 g of sodium hydroxide (dissolved in 256 g of water) are introduced into a 2.5 l sulfonation flask fitted with glass stirrer, thermometer, dropping funnel and condenser. The mixture is warmed to 65° C., and 350 g (1.4 mol) of 1-bromododecane are added dropwise over the course of 1.5 hours. The mixture is then stirred for 15 hours under reflux, cooled to room temperature and poured onto ice, the organic phase is washed with water and dried over sodium sulfate, and the solvent is removed on a rotary evaporator. The residue is distilled at 8.10-3 mmHg over a Vigreux column, giving 150 g (36%) of a clear liquid having the boiling point 124°-126° C.

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 1.28 mol, 201 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | sodium hydroxide | 256 g | [OH-].[Na+]
reactant | 1-bromododecane | 1.4 mol, 350 g | BrCCCCCCCCCCCC | C12H25Br
reactant | toluene | 1.3 l | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogensulfate | 64 mmol, 21.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2,3-epoxypropyl)-4-dodecyloxy-2,2,6,6-tetramethylpiperidine | 150 g, 36% | O1C(CN2C(CC(CC2(C)C)OCCCCCCCCCCCC)(C)C)C1 | C24H47NO2
